US08604062B2
6-[3-(4-Chloro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-N-(1-methyl-1H-pyrazol-4-yl)-nicotinamide
To a solution of 6-[3-(4-chloro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid (224 mg, 0.65 mmol) and 1-methyl-1H-pyrazol-4-ylamine (0.65 mmol) in THF (6 mL) at 0° C. were added 1-hydroxybenzotriazole hydrate (100.8 mg, 0.65 mmol), N-ethyldiisopropylamine (281.7 μl, 1.613 mmol) and N-(3-dimethylaminopropyl)-N′-ethylcarbodiimidazole hydrochloride (126.2 mg, 0.65 mmol). The resulting reaction mixture was stirred overnight at room temperature. Concentration and purification by chromatography (SiO2, heptane:ethyl acetate=3:1 to 1:4) afforded the title compound (201 mg, 73%) which was obtained as a white solid. MS: m/e=424.2 [M+H]+.

reactant | 6-[3-(4-chloro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid | 0.65 mmol, 224 mg | ClC1=CC=C(C=C1)C1=NOC(=C1COC1=NC=C(C(=O)O)C=C1)C | C17H13ClN2O4
reactant | 1-methyl-1H-pyrazol-4-ylamine | 0.65 mmol | CN1N=CC(=C1)N | C4H7N3
reactant | 1-hydroxybenzotriazole hydrate | 0.65 mmol, 100.8 mg | O.ON1N=NC2=C1C=CC=C2
reactant | N-ethyldiisopropylamine | 1.613 mmol, 281.7 μl | C(C)N(C(C)C)C(C)C | C8H19N
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | 6-[3-(4-Chloro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-N-(1-methyl-1H-pyrazol-4-yl)-nicotinamide | 201 mg, 73% | ClC1=CC=C(C=C1)C1=NOC(=C1COC1=NC=C(C(=O)NC=2C=NN(C2)C)C=C1)C | C21H18ClN5O3
